US09145392B2
Step 2: 2-[4-(4-Fluoro-3-methyl-phenyl)-2-piperidin-4-yl-imidazol-1-yl]-ethanol hydrochloride
To a solution of 4-[4-(4-Fluoro-3-methyl-phenyl)-1-(2-hydroxy-ethyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (1600.00 mg; 3.97 mmol; 1.00 eq.) in methanol 10 ml added 4.0M HCl in dioxane (9.91 ml; 39.65 mmol; 10.00 eq.), the reaction mixture was stirred at RT for 3 hrs, lc-ms showed clean desired, removed off solvent, got white solid as title compound.

reactant | 4-[4-(4-Fluoro-3-methyl-phenyl)-1-(2-hydroxy-ethyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 3.97 mmol, 1600.00 mg, 1.00 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCO | C22H30FN3O3
reactant | HCl | 4.0M | Cl | ClH
reactant | dioxane | 39.65 mmol, 9.91 ml, 10.00 eq. | O1CCOCC1 | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | 2-[4-(4-Fluoro-3-methyl-phenyl)-2-piperidin-4-yl-imidazol-1-yl]-ethanol hydrochloride | Cl.FC1=C(C=C(C=C1)C=1N=C(N(C1)CCO)C1CCNCC1)C | InChI=1S/C17H22FN3O.ClH/c1-12-10-14(2-3-15(12)18)16-11-21(8-9-22)17(20-16)13-4-6-19-7-5-13;/h2-3,10-11,13,19,22H,4-9H2,1H3;1H
